US08304557B2
N-{2-chloro-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 4 and using N-{5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (300 mg, 0.838 mmol), p-toluenesulfonyl chloride (176 mg, 0.922 mmol) and pyridine (4 mL) as starting materials, the title compound (368 mg, 86%) was obtained as a white solid.

reactant | N-{5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.838 mmol, 300 mg | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)Cl | C17H16ClN5O2
reactant | p-toluenesulfonyl chloride | 0.922 mmol, 176 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-{2-chloro-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 368 mg, 86% | ClC1=C(C=C(C=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)NC(=O)C1=CC(=NN1C)C | C24H22ClN5O4S
